US03954757
A solution of 12.7 g of iodine and 20 g of potassium iodide in 100 ml of water is added dropwise to a well-stirred mixture of 5.85 g of indole in 20 ml methanol and 6.5 g of 4,5,6,7-tetrahydro-1H-1,3-diazepine-2-thiol in 100 ml methanol. The reaction mixture is stirred at room temperature for 2 hours. The crystalline precipitate formed was filtered off and recrystallized from a mixture of methanol, ethyl acetate and ether to afford 3-(4,5,6,7-tetrahydro-1H-1,3-diazepin-2-ylthio)-indole hydriodide which melts at 236° (with decomposition).

reactant | iodine | 12.7 g | II | I2
reactant | potassium iodide | 20 g | [I-].[K+]
reactant | indole | 5.85 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 4,5,6,7-tetrahydro-1H-1,3-diazepine-2-thiol | 6.5 g | N1C(=NCCCC1)S | C5H10N2S
solvent | water | 100 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | 3-(4,5,6,7-tetrahydro-1H-1,3-diazepin-2-ylthio)-indole hydriodide | I.N1C(=NCCCC1)SC1=CNC2=CC=CC=C12 | InChI=1S/C13H15N3S.HI/c1-2-6-11-10(5-1)12(9-16-11)17-13-14-7-3-4-8-15-13;/h1-2,5-6,9,16H,3-4,7-8H2,(H,14,15);1H
